// Generated for: spectre
// Generated on: Jul 14 18:59:22 2025
// Design library name: GASPCell045
// Design cell name: testing
// Design view name: schematic
simulator lang=spectre
global 0
include "../../../input/spectre/gpdk045.scs" section=mc

// Library name: gsclib045u
// Cell name: INVX1
// View name: schematic
subckt gsclib045u_INVX1_schematic A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mn0 (Y A inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
ends gsclib045u_INVX1_schematic
// End of subcircuit definition.

// Library name: GASPCell045
// Cell name: GASPLATCHX1
// View name: schematic
subckt GASPLATCHX1 VDD VSS data_in data_out
    I4 (net2 data_in VDD VSS) gsclib045u_INVX1_schematic
    I3 (net2 data_out VDD VSS) gsclib045u_INVX1_schematic
    I2 (net2 data_out VDD VSS) gsclib045u_INVX1_schematic
    I1 (data_in net2 VDD VSS) gsclib045u_INVX1_schematic
    I0 (data_in net2 VDD VSS) gsclib045u_INVX1_schematic
ends GASPLATCHX1
// End of subcircuit definition.

// Library name: GASPCell045
// Cell name: testing
// View name: schematic
I2 (net1 net2 net4 net3) GASPLATCHX1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 